US05550149
5-(2-Chloroethoxy)-α-(3,4-dimethoxyphenyl)-1,3-dihydro-6-methoxy-α-[[4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile
The procedure of Example of 32 is used with 0.45 g of α-(3,4-dimethoxyphenyl)-1,3-dihydro-5-hydroxy-6-methoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile and 0.65 g of 2-chloroethyl p-toluenesulfonate. This affords 0.367 g of the desired product as a light brown oil.

reactant | α-(3,4-dimethoxyphenyl)-1,3-dihydro-5-hydroxy-6-methoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile | 0.45 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2C1)O)OC)SC1=CC=C(C=C1)C | C31H36N2O4S
reactant | 2-chloroethyl p-toluenesulfonate | 0.65 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCl)C | C9H11ClO3S
product | 5-(2-Chloroethoxy)-α-(3,4-dimethoxyphenyl)-1,3-dihydro-6-methoxy-α-[[4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile | 0.367 g | ClCCOC=1C=C2CN(CC2=CC1OC)CCCCCC(C#N)(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC | C33H39ClN2O4S
